US05371096
A solution of 2.02 g (0.00416 mole) of (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-[(R)-(-)-α-methoxyphenylacetoxy)-2-(3-pyridyl)tetrahydrofuran, 8.32 ml (0.00832 mole) of 1N sodium hydroxide in 20 ml of methanol is stirred at room temperature for 1 h and evaporated. The residue is triturated with water and extracted with ethyl acetate (3×20 ml). The combined extracts are washed with water and brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography to give (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofuran as an oil with [α]D25 =+43.8 (MeOH).

reactant | (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-[(R)-(-)-α-methoxyphenylacetoxy)-2-(3-pyridyl)tetrahydrofuran | 0.00416 mole, 2.02 g | [Si](C)(C)(C(C)(C)C)OCCC[C@H]1[C@H](OC[C@@H]1OC([C@H](OC)C1=CC=CC=C1)=O)C=1C=NC=CC1 | C27H39NO5Si
reactant | sodium hydroxide | 0.00832 mole, 1N, 8.32 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (2S,3S,4R)-3-(3-t-butyldimethylsilyloxyprop-1-yl)-4-hydroxy-2-(3-pyridyl)tetrahydrofuran | [Si](C)(C)(C(C)(C)C)OCCC[C@@H]1[C@H](OC[C@@H]1O)C=1C=NC=CC1 | C18H31NO3Si
